US07034045B1
2-(2-Fluoro-4-methoxy-phenyl)-2-trimethylsilanyloxy-propionitrile (2.8 g, 10.47 mmol) was dissolved in dry THF (30 mL) and stirred at room temperature under nitrogen. A 2.0 M solution of borane-dimethylsulfide complex (15.7 mL, 31.41 mmol) was added dropwise and the reaction was heated at reflux for 3 hours then cooled to room temperature. Concentrated HCl was carefully added dropwise until the evolution of gas ceased. The reaction mixture was diluted with diethyl ether and a white precipitate formed. The solids were collected and washed with additional ether to give 2.5 g (100%) of 2-(2-fluoro-4-methoxy-phenyl)-2-hydroxy-propylamine hydrochloride. Electrospray mass spectrum (M−1)=199.99 (free amine)

reactant | 2-(2-Fluoro-4-methoxy-phenyl)-2-trimethylsilanyloxy-propionitrile | 10.47 mmol, 2.8 g | FC1=C(C=CC(=C1)OC)C(C#N)(C)O[Si](C)(C)C | C13H18FNO2Si
reactant | HCl | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-fluoro-4-methoxy-phenyl)-2-hydroxy-propylamine hydrochloride | 2.5 g, 100% | Cl.FC1=C(C=CC(=C1)OC)C(CN)(C)O | InChI=1S/C10H14FNO2.ClH/c1-10(13,6-12)8-4-3-7(14-2)5-9(8)11;/h3-5,13H,6,12H2,1-2H3;1H
